US08981084B2
6N HCl (1.0 mL) was added to tert-butyl 4-(5-cyanopyridin-2-yl)piperidine-1-carboxylate (150 mg, 0.52 mmol) and the reaction mixture was stirred at 90° C. for 30 min, cooled to room temperature, and concentrated under reduced pressure. The crude residue was triturated with ether to afford 6-(piperidin-4-yl)nicotinonitrile hydrochloride (90 mg, crude). 1H NMR (300 MHz, D2O) δ 8.90 (d, J=0.7 Hz, 1H), 8.30 (dd, J=8.2 Hz, 1.9 Hz, 1H), 7.66 (d, J=8.1 Hz, 1H), 3.60-3.55 (m, 2H), 3.27-3.13 (m, 3H), 2.20 (m, 2H), 2.07-1.97 (m, 2H). MS (ESI) m/z: Calculated for C11H13N3: 187.11. found: 188.2 (M+H)+

reactant | HCl | 6N, 1.0 mL | Cl | ClH
reactant | tert-butyl 4-(5-cyanopyridin-2-yl)piperidine-1-carboxylate | 0.52 mmol, 150 mg | C(#N)C=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O2
product | 6-(piperidin-4-yl)nicotinonitrile hydrochloride | 90 mg | Cl.N1CCC(CC1)C1=NC=C(C#N)C=C1 | InChI=1S/C11H13N3.ClH/c12-7-9-1-2-11(14-8-9)10-3-5-13-6-4-10;/h1-2,8,10,13H,3-6H2;1H
